data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3657,4177,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][CH-:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[NH:16][CH:17]1[C:18]#[N:19],water,298.15,20.270498982796266,-17.178262144429098
645,705,[CH3:12][C-:13]([C:14]#[N:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:13]([CH3:12])([C:14]#[N:15])[N:16]=[C:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,9.117674844764306,-46.95365835711145
443,485,[CH3:14][CH:15]=[NH+:16][N-:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[N:17]([C:18](=[O:19])[O:20][CH3:21])[NH:16][CH:15]3[CH3:14],water,298.15,26.9059827582813,-22.737615458730588
458,500,[CH2:11]=[NH+:12][CH-:13][C:14](=[O:15])[O:16][CH3:17].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH:13]([C:14](=[O:15])[O:16][CH3:17])[NH:12][CH2:11]3,water,298.15,13.411809826426804,-45.122486045268666
3165,3572,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][N-:10][NH+:11]=[N:12][C:13](=[O:14])[O:15][CH3:16]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:10]([CH3:9])[NH:11][N:12]2[C:13](=[O:14])[O:15][CH3:16],water,298.15,21.550170738327694,-5.495004239173466
3366,3825,[CH3:10][N:11]=[NH+:12][N-:13][C:14](=[O:15])[NH:16][CH3:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:11]([CH3:10])[NH:12][N:13]1[C:14](=[O:15])[NH:16][CH3:17],water,298.15,38.32354678834415,6.311275927326427
582,638,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][NH:9][C:10](=[O:11])[CH:12]=[O+:13][N-:14][C:15](=[O:16])[NH:17][CH3:18]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:12]([C:10]([NH:9][CH3:8])=[O:11])[O:13][N:14]1[C:15](=[O:16])[NH:17][CH3:18],water,298.15,19.08613505748881,-70.8191911593224
2479,2751,[CH3:19][O:20][C:21](=[O:22])[c:23]1[o:24][c:25](=[O:26])[c-:27](-[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[n+:34]1[CH3:35].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([C:11]#[N:12])([C:13]#[N:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]1([C:21]([O:20][CH3:19])=[O:22])[O:24][C:25](=[O:26])[C:27]2([c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[N:34]1[CH3:35],water,298.15,14.053047084036724,-16.649989265196893
2313,2569,[Br:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1.[CH:13]#[N+:14][N-:15][C:16]([CH3:17])=[O:18]>>[Br:1][C:2]1([Br:3])[c:4]2[c:5]([n:15]([C:16]([CH3:17])=[O:18])[n:14][cH:13]2)[C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1,water,298.15,17.56910463166072,-65.90421174034238
1153,1252,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][N-:16][C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[NH:23][CH3:24].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([F:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[N:16]([C:17](=[O:18])[O:19][CH3:20])[NH:15][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:21](=[O:22])[NH:23][CH3:24],water,298.15,26.146501463086,-26.34150132820193
1222,1331,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]([C:20]([CH3:21])=[O:22])([C:23]([CH3:24])=[O:25])[N:18]=[C:17]2[C:15]([O:14][CH3:13])=[O:16],water,298.15,16.938737765227,-39.32896372522547
2066,2293,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([CH3:24])[C:25](=[O:26])[NH:27][CH3:28].[F:1][C:2]1([F:3])[C:4]#[C:5][C:6]([Cl:7])([C:8]([F:9])([F:10])[F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([Cl:7])([C:8]([F:9])([F:10])[F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:20]([C:18]([NH:17][CH3:16])=[O:19])[N:21]([CH3:22])[C:23]2([CH3:24])[C:25](=[O:26])[NH:27][CH3:28],water,298.15,9.708296993166137,-59.20309620958035
3067,3441,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]#[N+:8][CH-:9][c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1>>[CH2:1]1[CH2:2][CH:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[N:8]=[C:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,14.087884838241049,-52.00080872773064
